US04410520
A solution of ethyl 2-amino-4-(2-nitrophenyl)butyrate (27 g) in ethanol (600 ml) was hydrogenated at room temperature and atmospheric pressure, using 10% palladium on charcoal (2.5 g) as catalyst, until hydrogen uptake ceased. The catalyst was filtered off and evaporation to dryness gave ethyl 2-amino-4-(2-aminophenyl)butyrate used without purification for the next synthetic step.

reactant | ethyl 2-amino-4-(2-nitrophenyl)butyrate | 27 g | NC(C(=O)OCC)CCC1=C(C=CC=C1)[N+](=O)[O-] | C12H16N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 600 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 2.5 g | [Pd] | Pd
product | ethyl 2-amino-4-(2-aminophenyl)butyrate | NC(C(=O)OCC)CCC1=C(C=CC=C1)N | C12H18N2O2
